US07585853B2
N-[3-(4-Bromophenyl)propyl]-N,N-dicyclobutylamine
3-(4-Bromophenyl)propan-1-amine (0.50 g, 2.34 mmol; described in: Davies, R. V. et al. J. Chem. Soc. Perkin Trans. 1 1977, 2357-2364), cyclobutanone (0.393 g, 5.61 mmol) and acetic acid (0.140 mL, 2.34 mmol) were mixed in dichloroethane (6 mL) and stirred for 30 min. Sodium triacetoxy borohydride was added and the reaction mixture was stirred for 15 h. The reaction was quenched with water (15 mL) and extracted with methylene chloride (50 mL). The organic phase was separated, dried and evaporated. Purification by column chromatography using methylene chloride to methylene chloride/methanol, (2:1), gradient as the eluent gave 0.32 g (42% yield) of the title compound as colorless oil: MS (ESI) m/z 322 and 324 (M++1).

reactant | 3-(4-Bromophenyl)propan-1-amine | 2.34 mmol, 0.50 g | BrC1=CC=C(C=C1)CCCN | C9H12BrN
reactant | cyclobutanone | 5.61 mmol, 0.393 g | C1(CCC1)=O | C4H6O
reactant | acetic acid | 2.34 mmol, 0.140 mL | C(C)(=O)O | C2H4O2
reactant | Sodium triacetoxy borohydride | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | dichloroethane | 6 mL | ClC(C)Cl | C2H4Cl2
product | N-[3-(4-Bromophenyl)propyl]-N,N-dicyclobutylamine | 0.32 g, 42% yield | BrC1=CC=C(C=C1)CCCN(C1CCC1)C1CCC1 | C17H24BrN
